US05135744
decatriene
japonilure--4-(decen-1-yl)-butyrolactone

reactant | japonilure | CCCCCCCC/C=C\[C@H]1CCC(=O)O1 | C14H24O2
reactant | 4-(decen-1-yl)-butyrolactone | C(=CCCCCCCCC)C1CCC(=O)O1 | C14H24O2
product | decatriene | C=CC=CC=CCCCC | C10H16
